US09301951B2
3-(3-(4-(ethylthio)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 3-(3-(4-(ethylthio)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoate (200 mg, 0.28 mmol, 1.00 equiv) in dichloromethane (5 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (0.2 g) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained 40.4 mg (21%) of a light yellow solid. 1H-NMR (400 MHz, DMSO-d6, ppm): δ 12.85 (s, 1H), 12.28 (s, 1H), 9.60-9.57 (m, 1H), 9.01-8.99 (m, 1H), 8.55-8.53 (m, 1H), 8.39 (s, 1H), 7.96-7.51 (m, 11H), 4.65-4.64 (d, J=5.2 Hz, 2H), 3.90 (s, 2H), 3.08-3.03 (m, 2H), 2.63-2.59 (t, J=5.1 Hz, 2H), 1.28-1.24 (t, J=5.7 Hz, 3H). MS (ES, m/z): 654 [M+H]+.

reactant | tert-butyl 3-(3-(4-(ethylthio)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoate | 0.28 mmol, 200 mg, 1.00 equiv | C(C)SC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C37H38F3N3O4S2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(3-(4-(ethylthio)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid | 40.4 mg, 21% | C(C)SC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C33H30F3N3O4S2
